US07351725B2
3-(Cyclopropyloxy)-4-(nonyloxy)benzaldehyde
To a solution of 1.78 g (10.0 mmol) of 3-(cyclopropyloxy)-4-hydroxybenzaldehyde and 2.54 g (10.0 mmol) of 1-iodononane in 20 mL acetonitrile was added 3.58 g (11.0 mmol) of Cs2CO3. The slurry was stirred at rt for 12 h. The reaction was quenched with 30 mL of water and extracted with ethyl acetate (50 mL×2). The combined extractions were washed with water, dried with sodium sulfate and concentrated to a solid. Flash chromatography on a Biotage 40M cartridge using 10% ethyl acetate/hexanes afforded 2.9 g (95%) of the title compound as a white solid. 1H NMR (500 Mhz) δ 0.87-0.91 (m, 7H), 1.30-1.90 (m, 14H), 3.85 (m, 1H), 4.10 (t, J=6.9, 2H), 6.98 (d, J=8.2, 1H), 7.48 (dd, J=8.5, 1.8, 1H), 7.77 (d, J=1.8, 1H), 9.89 (s, 1H); LC-1: 4.6 min; ESI-MS 305 (M+H).

reactant | 3-(cyclopropyloxy)-4-hydroxybenzaldehyde | 10.0 mmol, 1.78 g | C1(CC1)OC=1C=C(C=O)C=CC1O | C10H10O3
reactant | 1-iodononane | 10.0 mmol, 2.54 g | ICCCCCCCCC | C9H19I
reactant | Cs2CO3 | 11.0 mmol, 3.58 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-(Cyclopropyloxy)-4-(nonyloxy)benzaldehyde | 2.9 g, 95% | C1(CC1)OC=1C=C(C=O)C=CC1OCCCCCCCCC | C19H28O3
